US04897490
5,5-Bis-(4-methoxyphenyl)-4-(1-methyl-1H-tetrazol-5yl)-penta-2,4-dienal
A solution of 3,3-bis(4-methoxyphenyl)-2-(1-methyl-1H-tetrazol-5-yl)propenal (1.7 g; 4.86 mmole) in benzene (100 mL) was treated with triphenylphosphoranylidene acetaldehyde (1.55 g; 5.1 mmole) and heated under reflux for 3 hours. The solvent was removed by evaporation and the residue purified by chromatography using 30% EtOAc-hexane as eluent to afford the title compound as a yellow foam (1.35 g; 74%). MS (CI): m/e=377 for (M+H)+ ;

reactant | 3,3-bis(4-methoxyphenyl)-2-(1-methyl-1H-tetrazol-5-yl)propenal | 4.86 mmole, 1.7 g | COC1=CC=C(C=C1)C(=C(C=O)C1=NN=NN1C)C1=CC=C(C=C1)OC | C19H18N4O3
reactant | triphenylphosphoranylidene acetaldehyde | 5.1 mmole, 1.55 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC=O | C20H17OP
reactant | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | 5,5-Bis-(4-methoxyphenyl)-4-(1-methyl-1H-tetrazol-5yl)-penta-2,4-dienal | 1.35 g, 74% | COC1=CC=C(C=C1)C(=C(C=CC=O)C1=NN=NN1C)C1=CC=C(C=C1)OC | C21H20N4O3
